US07470699B2
4-Hydroxy-piperidine-1-carboxylic acid isopropyl ester (0.496 mL, 2.90 mmol) was dissolved in anhydrous dimethylacetamide (DMA, 5 mL), NaH (60% oil dispersion, 116 mg, 2.90 mmol) was added and this mixture was stirred at 23° C. for 45 min, then this mixture was added dropwise to 2,4-dichloro-3-methyl-pyridine, which was dissolved in anhydrous DMA (4 mL). This mixture was stirred at 23° C. for 2 h then heated at 50° C. for 15 h, after which time the mixture was diluted with Et2O (140 mL), washed with water (14 mL), then brine twice (2×14 mL). The organic layer was separated, dried with MgSO4, and the solvent was evaporated in vacuo to give an oil which was purified by flash chromatography using hexanes-EtOAc, 75:25, v/v, then hexanes-EtOAc, 50:50, v/v, to give 4-(2-chloro-3-methyl-pyridin-4-yloxy)-piperidine-1-carboxylic acid isopropyl ester as a solid (223 mg, 27%). 1H NMR (CDCl3, 400 MHz) δ 8.09 (d, 11H), 6.69 (d, 11H), 4.91 (m, 1H), 4.60 (m, 1H), 3.61 (m, 2H), 3.52 (m, 2H), 2.24 (s, 3H), 1.91 (m, 2H), 1.80 (m, 2H), 1.24 d, 6H). LRMS calculated for C15H21ClN2O3: 312.12, Found: (MH)+ 313.4.

reactant | 4-Hydroxy-piperidine-1-carboxylic acid isopropyl ester | 2.90 mmol, 0.496 mL | C(C)(C)OC(=O)N1CCC(CC1)O | C9H17NO3
reactant | NaH | 2.90 mmol, 116 mg | [H-].[Na+]
reactant | 2,4-dichloro-3-methyl-pyridine | ClC1=NC=CC(=C1C)Cl | C6H5Cl2N
solvent | dimethylacetamide | 5 mL | CC(=O)N(C)C | C4H9NO
solvent | DMA | 4 mL | CC(=O)N(C)C | C4H9NO
solvent | Et2O | 140 mL | CCOCC | C4H10O
product | 4-(2-chloro-3-methyl-pyridin-4-yloxy)-piperidine-1-carboxylic acid isopropyl ester | 223 mg, 27% | C(C)(C)OC(=O)N1CCC(CC1)OC1=C(C(=NC=C1)Cl)C | C15H21ClN2O3
